US07838675B2
i) N-(ter-Butyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-7-sulfonamide
To a solution of 2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-7-sulfonyl chloride (3 g) in DCM (50 ml) was added 2-methylpropan-2-amine (1.73 g). The reaction was then allowed to stir at room temperature 18 h. The reaction was partitioned between H2O (100 ml) and DCM (100 ml). The organics were separated and the aqueous layer was re-extracted with DCM (2×200 ml). Organics were combined, dried (MgSO4) and reduced in vacuo to give the subtitle compound as colourless oil. Yield: 3.56 g

reactant | 2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-7-sulfonyl chloride | 3 g | FC(C(=O)N1CC2=CC(=CC=C2CC1)S(=O)(=O)Cl)(F)F | C11H9ClF3NO3S
reactant | 2-methylpropan-2-amine | 1.73 g | CC(C)(C)N | C4H11N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(ter-Butyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-7-sulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C15H19F3N2O3S
